US07662825B2
2,4-Dichloro-N-(5,6-dichloro-3-methoxy-2-pyrazinyl)benzenesulphonamide
Prepared by the method of Example 1 (reaction performed at room temperature) using 5,6-dichloro-3-methoxy-2-pyrazinamine (0.1 g) and 2,4-dichlorobenzenesulphonyl chloride (0.15 g). Yield 0.076 g.

reactant | 5,6-dichloro-3-methoxy-2-pyrazinamine | 0.1 g | ClC=1N=C(C(=NC1Cl)N)OC | C5H5Cl2N3O
reactant | 2,4-dichlorobenzenesulphonyl chloride | 0.15 g | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | 2,4-Dichloro-N-(5,6-dichloro-3-methoxy-2-pyrazinyl)benzenesulphonamide | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)NC1=NC(=C(N=C1OC)Cl)Cl | C11H7Cl4N3O3S
